Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1[H:11]>>[O:1]=[C:2]=[C:10]([C:7]([C:4]([O:3])([H:5])[H:6])([H:8])[H:9])[H:11],1.90534670126
[H:5].[O:1]=[C:2]([H:3])[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.74364105263
[H:15].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.57468391816
[C:1]=[C:2]([H:3])[C@@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11].[H:4]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11],-1.7784525982799997
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7][C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]#[C:8][H:9],4.14345386397
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]([O:4][H:5])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.95419416438
[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-3.920423435380002
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.94860707495
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7]>>[O:1]=[C:2]([C:3]([H:4])[O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.2263396555
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]=[C:3]1[C:4]([H:5])=[C:6][O:7][C:8]1([H:9])[H:10],-0.672627865089
[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12],-4.53047899561
[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.601395091730001
[C:1][C:2]#[C:3][C:4]([H:5])[C:6][O:7][H:8]>>[C:1]#[C:2][C:3]#[C:4][C:6][O:7][H:8].[H:5],2.41739700945
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12],3.87830744275
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.27876412054
[O:1]=[C:2]([H:3])[C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11]>>[C:4]12[C:5]([H:6])[C@@:7]1([H:8])[C:9]2([H:10])[H:11].[O:1]=[C:2][H:3],3.92742645105
[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.7781758292400003
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],1.23393628164
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],6.15648499
[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.82568849491
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.403925047
[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[O:4],0.89587274089
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:9][H:10]>>[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10],-3.3020368681200005
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10]>>[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])[H:10].[H:1][O:2],3.96125492686
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:6]([H:7])#[C:8][C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][H:5],1.6939325295200005
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[O:9][H:10].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-3.06783898297
[C:1].[C:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-7.37257101776
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],4.597085365369999
